US04410539
A mixture of 6-acetyl-3-bromo-2-methylbenzo[b]-thiophene (12.0 g.), sulphur (3.0 g.) and morpholine (12 ml.) was heated under reflux for 6 hours. (This is the Willgerodt-Kindler reaction.) The mixture was poured into water and the resulting green solid was filtered off, washed with water and added to a solution of sodium hydroxide (12.0 g.) in methanol (250 ml.). The mixture was heated under reflux for 6.5 hours and then evaporated. The residue was dissolved in water and the solution was washed with ethyl acetate. The aqueous layer was acidified to give a solid which was filtered off, washed with water and dried to give 3-bromo-6-carboxymethyl-2-methylbenzo[b]thiophene (8.22 g.) pure enough for further reaction. A portion crystallized from toluene/petrol (b.p. 60°-80°) had m.p. 150°-152° C.

reactant | 6-acetyl-3-bromo-2-methylbenzo[b]-thiophene | 12.0 g | C(C)(=O)C=1C=CC2=C(SC(=C2Br)C)C1 | C11H9BrOS
reactant | sulphur | 3.0 g | [S] | S
reactant | morpholine | 12 ml | N1CCOCC1 | C4H9NO
reactant | water | O | H2O
product | 3-bromo-6-carboxymethyl-2-methylbenzo[b]thiophene | 8.22 g | BrC=1C2=C(SC1C)C=C(C=C2)CC(=O)O | C11H9BrO2S
